US04584132
A mixture of 5.50 g (0.025 mol) of (S)-(2-oxo-3-azetidinyl) carbamic acid phenylmethyl ester, 250 mL of ethanol, and 2.0 g of 10% palladium on carbon catalyst was hydrogenated (2 hours) on a Parr apparatus at an initial gauge pressure of 50 psi. After filtration of the catalyst, the solution was concentrated to dryness under reduced pressure. A mixture of the residue with 4.2 mL (0.03 mol) of triethylamine and 30 mL of DMF was stirred and cooled in ice. A solution of 3.88 g (0.025 mol) of phenylacetyl chloride in 25 mL of ethanol-free chloroform was added over a period of 30 minutes. The mixture was stirred another 30 minutes with cooling, and then for 2.5 hours at room temperature. The chloroform was evaporated under reduced pressure, and 300 mL of ether was added to the residue. The mixture was cooled in ice for 20 minutes. The precipitate was filtered and washed successively with ether, aqueous NaHCO3 solution, water, and ether. After drying in the air, the solid (2.15 g) was recrystallized from 50 mL of ethanol to obtain 1.86 g of pure (S)-N-(2-oxo-3-azetidinyl)benzeneacetamide, m.p. 194°-195° C.

reactant | (S)-(2-oxo-3-azetidinyl) carbamic acid phenylmethyl ester | 0.025 mol, 5.50 g | C1(=CC=CC=C1)COC(N[C@@H]1C(NC1)=O)=O | C11H12N2O3
reactant | triethylamine | 0.03 mol, 4.2 mL | C(C)N(CC)CC | C6H15N
reactant | DMF | 30 mL | CN(C)C=O | C3H7NO
reactant | phenylacetyl chloride | 0.025 mol, 3.88 g | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
catalyst | palladium on carbon | 2.0 g | [Pd] | Pd
solvent | ethanol | 25 mL | C(C)O | C2H6O
solvent | ethanol | 250 mL | C(C)O | C2H6O
product | (S)-N-(2-oxo-3-azetidinyl)benzeneacetamide | 1.86 g | O=C1NC[C@@H]1NC(CC1=CC=CC=C1)=O | C11H12N2O2
